US07060844B2
To a stirred suspension of 5-aminophthalide (5.00 g, 33.5 mmol) in acetonitrile (120 ml), was added 37% formaldehyde aqueous solution (24.9 ml, 335 mmol) and sodium cyanoborohydride (8.42 g, 134 mmol). The mixture was cooled to 0° C., followed by addition of 10% AcOH aqueous solution (120 ml). The mixture was warmed to room temperature from 0° C. during 1.5 hour-period. The mixture was concentrated under reduced pressure to a smaller volume and was extracted with EtOAc (2×125 ml). The combined organic layers were washed with saturated NaHCO3 solution (125 ml) and brine (125 ml), dried over Na2SO4. Removal of the solvent produced a crude product. Recrystallization of the crude product from MeOH gave 5-dimethylamino-3H-isobenzofuran-1-one as an off-white solid (3.90 g, 66%).

reactant | 5-aminophthalide | 33.5 mmol, 5.00 g | NC=1C=C2COC(=O)C2=CC1 | C8H7NO2
reactant | formaldehyde | 335 mmol, 24.9 ml | C=O | CH2O
reactant | sodium cyanoborohydride | 134 mmol, 8.42 g | C(#N)[BH3-].[Na+]
reactant | AcOH | 120 ml | CC(=O)O | C2H4O2
solvent | acetonitrile | 120 ml | C(C)#N | C2H3N
product | 5-dimethylamino-3H-isobenzofuran-1-one | 3.90 g, 66% | CN(C=1C=C2COC(C2=CC1)=O)C | C10H11NO2
